US06943157B2
In a round-bottomed flask were placed N-BocSerine (20.0 g, 89.605 mmol, 1 eq.), benzyl bromide (10.76 ml, 90.50 mmol, 1.01 eq.) and cesium carbonate (56.64 g, 173.84 mmol, 1.94 eq.) in DMF (180 mL). The suspension was stirred under nitrogen at room temperature for 2 hrs to overnight. The mixture was partitioned between water and ethyl acetate (1:1, 1000 ml) and aqueous layer was re-extracted with ethyl acetate(2×200 mL). The combined organic layers were washed with water (2×500 mL), saturated sodium chloride, and dried over sodium sulfate. The solvents were removed in vacuo and the crude material purified on silica gel to get N-Boc-serine benzyl ester.

reactant | N-BocSerine | 89.605 mmol, 20.0 g, 1 eq. | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | benzyl bromide | 90.50 mmol, 10.76 ml, 1.01 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | cesium carbonate | 173.84 mmol, 56.64 g, 1.94 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
product | N-Boc-serine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](NC(=O)OC(C)(C)C)CO)=O | C15H21NO5
